US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole
3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (37 g) was dissolved in N,N-dimethylformamide (180 mL). To the solution were added 1-(benzyloxycarbonyl)piperazine (28.4 g), 1-hydroxybenzotriazole (10.5 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (14.8 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate twice. The extracts were washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2-ethyl acetate) to give the title compound (40.5 g).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 37 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)O)=O)C(C)C | C35H47N3O13
reactant | 1-(benzyloxycarbonyl)piperazine | 28.4 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole | 10.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 14.8 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 40.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)C(C)C | C47H61N5O14
